US08080541B2
Intermediate H: cis-N-(2-Amino-cyclohexyl)-2-methoxy-4,6-bis-trifluoromethyl-benzamide
The title compound, yellow foam, MS: m/e=385.1 [(M+H)+], was prepared in accordance with the general method of intermediate G from cis-1,2-diaminocyclohexane and 2,4-bis(trifluoromethyl)-6-methoxybenzoic acid.

reactant | cis-1,2-diaminocyclohexane | N[C@H]1[C@H](CCCC1)N | C6H14N2
reactant | 2,4-bis(trifluoromethyl)-6-methoxybenzoic acid | FC(C1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)OC)(F)F | C10H6F6O3
product | cis-N-(2-Amino-cyclohexyl)-2-methoxy-4,6-bis-trifluoromethyl-benzamide | N[C@@H]1[C@@H](CCCC1)NC(C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)OC)=O | C16H18F6N2O2
